US05580872
8-(3-Dimethylaminopyrrolidinyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic Acid Acetic Acid Salt
A 81 mg sample of 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid ethyl ester, from Example 253i above, was dissolved in 2.5 mL of dry pyridine under a nitrogen atmosphere. To this solution was added a solution of 114 g of 3-(dimethylamino)pyrrolidine in 2.5 mL of pyridine, and the reaction mixture was heated at 60° C. for 39 hours. The pyridine was removed under vacuum, and the residue was stirred with 1N NaOH in THF/water for at 60° C. for 6 hours. The solution was made acidic with acetic acid, and the product was extracted with chloroform. After drying over MgSO4, the solvent was removed, and the residue was purified by chromatography on silica gel, eluting with 100:40:20:8 chloroform: methanol: acetic acid:water to give the title product. mp 165-170° C. (dec.). MS 374 (M+H)+ ; 1H NMR (D6 -DMSO) δ: 0.53 (m, 2H), 0.82-1.08 (m, 2H), 1.75 (s, 3H), 2.22 (s, 6H), 2.08-2.33 (m, 2H), 2.74 (m, 2H), 3.44-3.94 (m, 5H), 8.01 (br, s, 1H), 8.90 (br s, 1H).

reactant | 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=C2C(=C(C(=CN2C1=O)F)Cl)C)C1CC1 | C16H15ClFNO3
reactant | 3-(dimethylamino)pyrrolidine | 114 g | CN(C1CNCC1)C | C6H14N2
solvent | pyridine | 2.5 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 2.5 mL | N1=CC=CC=C1 | C5H5N
product | 8-(3-Dimethylaminopyrrolidinyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic Acid Acetic Acid Salt | C(C)(=O)O.CN(C1CN(CC1)C=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)O)=O)F)C | InChI=1S/C20H24FN3O3.C2H4O2/c1-11-17-14(12-4-5-12)8-15(20(26)27)19(25)24(17)10-16(21)18(11)23-7-6-13(9-23)22(2)3;1-2(3)4/h8,10,12-13H,4-7,9H2,1-3H3,(H,26,27);1H3,(H,3,4)
